US06965031B2
In a mixture solution of 1.37 g of an oily 60% sodium hydride and 10 ml of tetrahydrofuran, a mixture solution of 2.36 g of 3,5-dioxohexanoic acid ethyl ester and 10 ml of tetrahydrofuran was dropped in 5 minutes while keeping an inner temperature of 20° C. After stirring the mixture for 1 hour at that temperature, a mixture of 2.01 g of 2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-carbaldehyde and 20 ml of tetrahydrofuran was dropped for 20 minutes. After stirring the mixture for 4 hours, a reaction solution was added in 3.09 g of acetic acid and 20 ml of water to terminate the reaction. An organic phase was extracted with 40 ml of ethyl acetate and was then washed with 20 ml of saturated brine, followed by being dried with 2 g of anhydrous sodium sulfate. As a result of analysis on the resulting organic phase, 2.52 g of (E)-7-[2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl]-3,5-dioxohept-6-enic acid ethyl ester (DOXE) (yield 82%) was obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 3,5-dioxohexanoic acid ethyl ester | 2.36 g | C(C)OC(CC(CC(C)=O)=O)=O | C8H12O4
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-carbaldehyde | 2.01 g | C1(CC1)C1=NC2=CC=CC=C2C(=C1C=O)C1=CC=C(C=C1)F | C19H14FNO
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 3.09 g | C(C)(=O)O | C2H4O2
product | (E)-7-[2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl]-3,5-dioxohept-6-enic acid ethyl ester | 2.52 g, yield 82% | C(C)OC(CC(CC(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)=O)=O)=O | C27H24FNO4
